US05468877
Preparation of 3-Bromo-5-(p-chlorophenyl)-2-(trifluoromethyl)-4-[(trifluoromethyl)thio]pyrrole
A solution of 2-(p-chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)thio]pyrrole (1.03 g, 3.0 mmol) and sodium acetate (0.3 g, 3.6 mmol) in acetic acid is treated with bromine (0.58 g, 3.6 mmol), stirred for 30 minutes at room temperature and diluted with an ethyl acetate/water mixture. The organic phase is separated, washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a semi-solid. Chromatography of the semi-solid using silica gel and hexanes gives the title product as a white solid (mp 87.0°-88.5° C.) which is identified by 1HNMR, 19FNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)thio]pyrrole | 3.0 mmol, 1.03 g | ClC1=CC=C(C=C1)C=1NC(=CC1SC(F)(F)F)C(F)(F)F | C12H6ClF6NS
reactant | sodium acetate | 3.6 mmol, 0.3 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 3.6 mmol, 0.58 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 3-Bromo-5-(p-chlorophenyl)-2-(trifluoromethyl)-4-[(trifluoromethyl)thio]pyrrole | BrC1=C(NC(=C1SC(F)(F)F)C1=CC=C(C=C1)Cl)C(F)(F)F | C12H5BrClF6NS
